US04904680
N-(α,α-Dimethylbenzyl)-2-benzoylaminoacetamide (Compound No. 1)
1.0 g of α,α-dimethylbenzylamine and 1.95 g of triphenylphosphine were dissolved in 100 ml of anhydrous methylene chloride. 1.33 g of hippuric acid and 1.63 g of 2,2'-dipyridyl disulfide were added in that order to the solution, and the mixture was heated under reflux for 2 hours. At the end of this time, the reaction solution was washed with a 10% w/v aqueous solution of sodium hydroxide and then with 1N aqueous hydrochloric acid, and dried over anhydrous sodium sulfate After concentration of the reaction solution by evaporation under reduced pressure, the resulting residue was subjected to silica gel column chromatography for separation and purification (using as eluent a 1:1 by volume mixture of hexane and ethyl acetate), to give 1.97 g (yield 90%) of the title product melting at 156°-157° C.

reactant | α,α-dimethylbenzylamine | 1.0 g | CC(C1=CC=CC=C1)(C)N | C9H13N
reactant | triphenylphosphine | 1.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hippuric acid | 1.33 g | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
reactant | 2,2'-dipyridyl disulfide | 1.63 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(α,α-Dimethylbenzyl)-2-benzoylaminoacetamide | 1.97 g, yield 90% | CC(C1=CC=CC=C1)(C)NC(CNC(C1=CC=CC=C1)=O)=O | C18H20N2O2
